US08067457B2
In a round-bottom flask, a slurry of N-[(3R)-1-benzylpyrrolidin-3-yl]-2-[4-(trifluoromethyl)-1H-benzimidazol-2-yl]acetamide (800 mg, 1.99 mmol) and Palladium (10%) on Carbon (10 mg) in MeOH was purged with hydrogen gas for 2 min.; the reaction was then subjected to 1 atm of hydrogen gas overnight. The flask was purged with argon, then the mixture was filtered, concentrated and subjected to flash chromatography (ethyl acetate) to afford N-[(3R)-pyrrolidin-3-yl]-2-[4-(trifluoromethyl)-1H-benzimidazol-2-yl]acetamide (510 mg, 83%), as a white solid.

reactant | N-[(3R)-1-benzylpyrrolidin-3-yl]-2-[4-(trifluoromethyl)-1H-benzimidazol-2-yl]acetamide | 1.99 mmol, 800 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC(CC1=NC2=C(N1)C=CC=C2C(F)(F)F)=O | C21H21F3N4O
reactant | hydrogen | [H][H] | H2
solvent | MeOH | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | N-[(3R)-pyrrolidin-3-yl]-2-[4-(trifluoromethyl)-1H-benzimidazol-2-yl]acetamide | 510 mg, 83% | N1C[C@@H](CC1)NC(CC1=NC2=C(N1)C=CC=C2C(F)(F)F)=O | C14H15F3N4O
